US07291632B2
Preparation 24. 1-Methyl-4-(N-(2-fluoro-3-bromophenyl)methylamino)piperidine
Add n-butyl lithium (1.6 M in hexanes, 4.3 mL) into a solution of 2,2,6,6-tetramethyl-piperidine (0.97 g) in THF (10 mL) at −78° C. and stir for 30 minutes. Add a solution of 1-methyl-4-(N-(2-fluorophenyl)methylamino)piperidine (Preparation 23, 1.02 g) in THF (10 mL) portionwise and stir for 10 minutes. Add 1,2-dibromo-1,1,2,2-tetrachloroethane (1.50 g) in THF (10 mL) dropwise and stir for 1 hr. Remove the cooling bath and stir for 30 minutes. Partition between ethyl acetate and saturated aqueous NaCl, dry over anhydrous sodium sulfate, evaporate and purify on a silica gel column (110 g), using a gradient of dichloromethane-2M NH3 in methanol to give 0.49 g of the title intermediate.

reactant | n-butyl lithium | 1.6 M, 4.3 mL | C(CCC)[Li]
reactant | 2,2,6,6-tetramethyl-piperidine | 0.97 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 1-methyl-4-(N-(2-fluorophenyl)methylamino)piperidine | 1.02 g | CN1CCC(CC1)NCC1=C(C=CC=C1)F | C13H19FN2
reactant | 1,2-dibromo-1,1,2,2-tetrachloroethane | 1.50 g | BrC(C(Cl)(Cl)Br)(Cl)Cl | C2Br2Cl4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-Methyl-4-(N-(2-fluoro-3-bromophenyl)methylamino)piperidine | 0.49 g | CN1CCC(CC1)NCC1=C(C(=CC=C1)Br)F | C13H18BrFN2
